* C:\Users\Rocío Parra\Google Drive\2019 - 1C\Electrónica II\TP\E2_TP1\Simulaciones\e2_tp1(Con_Protec).asc
Q1 in N004 N007 0 BC337-25
Q2 in N007 N008 0 Qtip41c
R1 out 0 1000
R§PRESET out realim 38976
R3 realim 0 47k
D1 N004 N006 1N4148
D2 0 N005 TDZ8_2B
R4 in N005 560
D3 in N001 1N4148
D4 N001 N003 1N4148
V1 in 0 17.02652
R6 N003 0 10k
Q3 N004 N003 N002 0 BC557B
XU1 N005 realim in 0 N006 LM339
Q4 N004 N009 out 0 2N2222
R7 N008 N009 1k5
R8 N009 0 39k
R9 N008 out 0.6
R5 in P001 560
R10 P001 N002 82
.model D D
.lib C:\Users\Rocío Parra\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Rocío Parra\Documents\LTspiceXVII\lib\cmp\standard.bjt
.lib LM339.5_1
.lib BC547.lib
;step dec param RL  1 1000 300
;dc V1 list 18 20
* vo=15 -> preset=38976
* vo=9 -> preset=4585
* PRESET=R3*(VO/8.2 - 1)
.op
.backanno
.end
